US08440666B2
5-[(1R,2R,3R,5S)-2,6,6-Trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one
4-Bromo-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one (300 mg, 0.92 mmol) and 10% palladium-carbon (50 wt %, 30 mg) in methanol were stirred in a hydrogen stream at room temperature for 1 day. The reaction solution was filtered through celite, and the filtrate was concentrated to give the desired product (100% yield).

reactant | 4-Bromo-5-[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one | 0.92 mmol, 300 mg | BrC=1C(NN=CC1N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C)=O | C14H20BrN3O
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium-carbon | 30 mg | [C].[Pd]
product | 5-[(1R,2R,3R,5S)-2,6,6-Trimethylbicyclo[3.1.1]hept-3-ylamino]pyridazin-3(2H)-one | 100% yield | C[C@@H]1[C@@H]2C([C@H](C[C@H]1NC1=CC(NN=C1)=O)C2)(C)C | C14H21N3O
